US06172228B2
The reaction was carried out in the same manner as in Preparation Example 11 except for using N-methyl-n-butylamine (5.75g, 66 mmol) in place of diethylamine, and 5-chloropentanesulfonyl chloride (6.15g, 30 mmol) in place of 6-chlorohexanesulfonyl chloride in Preparation Example 11, to give N-n-butyl-N-methyl-5-chloropentanesulfonamide (7.12 g) as a pale yellow oil.

reactant | N-methyl-n-butylamine | 66 mmol, 5.75g | CNCCCC | C5H13N
reactant | 5-chloropentanesulfonyl chloride | 30 mmol, 6.15g | ClCCCCCS(=O)(=O)Cl | C5H10Cl2O2S
product | N-n-butyl-N-methyl-5-chloropentanesulfonamide | 7.12 g | C(CCC)N(S(=O)(=O)CCCCCCl)C | C10H22ClNO2S
